US04946834
A mixture of potassium-t-butoxide (5 g) in 100 ml t-butanol is heated to reflux. A solution of 3-oxo-17β-(hydroxymethyl)-4-androstene (10 g) in t-butanol is added followed by a solution of methyl iodide (2.7 g) in t-butanol. Heating is continued for 3 hours. The mixture is then cooled, acidified, and extracted with dichloromethane. The dichloromethane solution is washed with brine, dried, and concentrated to yield 3oxo-17β-(hydroxymethyl)-4-methyl-4-androstene.

reactant | potassium-t-butoxide | 5 g | CC(C)([O-])C.[K+]
reactant | 3-oxo-17β-(hydroxymethyl)-4-androstene | 10 g | O=C1C=C2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)CO | C20H30O2
reactant | methyl iodide | 2.7 g | CI | CH3I
solvent | t-butanol | 100 ml | C(C)(C)(C)O | C4H10O
product | 3oxo-17β-(hydroxymethyl)-4-methyl-4-androstene | O=C1C(=C2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)CO)C | C21H32O2
